US06291198B1
2,2′-dipyridyldisulfide (13.2 g) was dissolved in 100 ml of methanol. Under vigorously stirring, 3.4 g of 2-mercaptoethylamine hydrochloride in 30 ml of methanol was added dropwise thereto. The reaction mixture was stirred for 1 hour and 40 minutes and the solvent was distilled off. Ethyl acetate was added to the resulting residue for crystallization and crystals were collected by filtration. Crude crystals thus obtained were recrystallized from methanol-ether. The mother liquor was concentrated and crystallized again from ether to obtain 5.62 g of S-(2-pyridylthio)-2-mercaptoethylamine hydrochloride (hereinafter referred to as Compound (2)) (yield 84%). The chemical formula of Compound (2) is shown below.

reactant | 2,2′-dipyridyldisulfide | 13.2 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | 2-mercaptoethylamine hydrochloride | 3.4 g | Cl.SCCN
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | S-(2-pyridylthio)-2-mercaptoethylamine hydrochloride | 5.62 g, yield 84% | Cl.N1=C(C=CC=C1)SSCCN | InChI=1S/C7H10N2S2.ClH/c8-4-6-10-11-7-3-1-2-5-9-7;/h1-3,5H,4,6,8H2;1H
